US06417192B1
To a solution of 6-amino-1-hexanol (12.9 g) and diisopropylethylamine (11.9 g) in dry dichloromethane (100 ml) at 5° C. was added 4-chlorobenzoyl chloride (16.1 g) in dry dichloromethane at such a rate to maintain the temperature below 10° C. After stirring for 16 h, the mixture was poured into water and filtered. The solid was washed with water, 2M hydrochloric acid (150 ml), water, dichloromethane and was dried under reduced pressure to give 6-(4-chlorobenzoylamino)hexan-1-ol (19.2 g). 1H-NMR (d6-DMSO) δ 1.25-1.65 (8H, m), 3.24 (2H, q), 3.38 (2H, t), 7.52 (2H, m), 7.84 (2H, m) and 8.54 (1H, bt)

reactant | 6-amino-1-hexanol | 12.9 g | NCCCCCCO | C6H15NO
reactant | diisopropylethylamine | 11.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chlorobenzoyl chloride | 16.1 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-(4-chlorobenzoylamino)hexan-1-ol | 19.2 g | ClC1=CC=C(C(=O)NCCCCCCO)C=C1 | C13H18ClNO2
